US05367081
Synthesis of t-butyl 2-[N-[1,4-dihydro-2,6-dimethyl-5-methoxycarbonyl-4-(2-methylphenyl)pyridine-3-carbonyl]amino]acetate:
A mixture of 327 mg (1.5 mmol) of methyl 2-(2-methylbenzylidene)acetoacetate and 318 g (1.5 mmol) of t-butyl 2-[N-(3-amino-2-butenoyl)amino]acetate was stirred in a light-shielding condition at 120° C. for 10 minutes. After cooling to room temperature, the reaction mixture was chromatographed on a silica gel column for purification, whereby 308 mg (49.5%) of the captioned compound was obtained as an oily material.

reactant | methyl 2-(2-methylbenzylidene)acetoacetate | 1.5 mmol, 327 mg | CC1=C(C=C(C(=O)OC)C(=O)C)C=CC=C1 | C13H14O3
reactant | t-butyl 2-[N-(3-amino-2-butenoyl)amino]acetate | 1.5 mmol, 318 g | NC(=CC(=O)NCC(=O)OC(C)(C)C)C | C10H18N2O3
product | t-butyl 2-[N-[1,4-dihydro-2,6-dimethyl-5-methoxycarbonyl-4-(2-methylphenyl)pyridine-3-carbonyl]amino]acetate | 308 mg, 49.5% | CC=1NC(=C(C(C1C(=O)NCC(=O)OC(C)(C)C)C1=C(C=CC=C1)C)C(=O)OC)C | C23H30N2O5
